US06555541B1
b) (3,4-Difluoro-phenyl)-[(4-hydroxymethyl-2-methyl-phenylcarbamoyl)-methyl]-carbamic acid tert-butyl ester
To a solution of [tert-butoxycarbonyl-(3,4-difluorophenyl)-amino]-acetic acid (5.74 g) in tetrahydrofuran (40 ml) at 0° C. was added triethylamine (3.2 ml) followed by isobutylchloroformate (2.9 ml) dropwise. After stirring for lhr, triethylamine (3.2 ml) was added followed by 4-(tert-butyl-dimethyl-silanyloxymethyl)-2-methyl-phenylamine (5.0 g) in tetrahydrofuran (3 ml), and the reaction warmed to room temperature and then heated at 58° C. overnight. After cooling to 0° C., tetrabutylammonium fluoride (7.6 ml of a 1M solution in tetrahydrofuran) was added dropwise and the reaction warmed to room temperature. After 3 hrs, the solution was poured into ethyl acetate/water and the organic layer separated, washed with KHSO4 (10% solution in water), water and brine, dried (Na2SO4) and concentrated. Purification of the residue by silica gel chromatography (eluting with 3% methanol in dichloromethane) gave an orange solid. Recrystallisation from 2-propanol/isohexane gave the sub-title compound as white crystals (2.8 g).

reactant | [tert-butoxycarbonyl-(3,4-difluorophenyl)-amino]-acetic acid | 5.74 g | C(C)(C)(C)OC(=O)N(C1=CC(=C(C=C1)F)F)CC(=O)O | C13H15F2NO4
reactant | isobutylchloroformate | 2.9 ml | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | 4-(tert-butyl-dimethyl-silanyloxymethyl)-2-methyl-phenylamine | 5.0 g | C(C)(C)(C)[SiH2]OC(C1=CC(=C(C=C1)N)C)(C)C | C14H25NOSi
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate water | C(C)(=O)OCC.O
solvent | triethylamine | 3.2 ml | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 3.2 ml | C(C)N(CC)CC | C6H15N
product | (3,4-Difluoro-phenyl)-[(4-hydroxymethyl-2-methyl-phenylcarbamoyl)-methyl]-carbamic acid tert-butyl ester | 2.8 g | C(C)(C)(C)OC(N(CC(NC1=C(C=C(C=C1)CO)C)=O)C1=CC(=C(C=C1)F)F)=O | C21H24F2N2O4
